US05712300
Preparation of tert-Butyl α-[2-[(3,4-Difluorobenzoyl)amino]ethyl]-3-(3-hydroxypropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate
A cold (0° C.) solution of tert-butyl α-[2-[(3,4-difluorobenzoyl)amino]ethyl]-2-oxo-1-(2-phenylethyl)-3-(propen-2-yl)-3-pyrrolidineacetate (1.62 g, 3.07 mmol) in dry THF (10 mL) is treated with monochloroborane methylsulfide complex (640 μL, 6.14 mmol). The ice bath is removed, and after 4.5 h, 3N NaOH (7.4 mL, 22.1 mmol) is added dropwise, followed by 30% H2O2 (2.5 mL). The solution is stirred for 1 hour at room temperature and then for 1 hour at 50° C. After cooling to room temperature and dilution with saturated NH4Cl (5 mL) and H2O (15 mL), the product is extracted into EtOAc (3×50 mL). The extracts are combined, dried over anhydrous MgSO4, filtered, and concentrated under reduced pressure to give 1.6 g of a yellow gel. The material is purified by silica gel chromatography (75 g SG; 75% EtOAc/hexane) to provide 713 mg (43%) of the title compound as a white, amorphous solid:

reactant | tert-butyl α-[2-[(3,4-difluorobenzoyl)amino]ethyl]-2-oxo-1-(2-phenylethyl)-3-(propen-2-yl)-3-pyrrolidineacetate | 3.07 mmol, 1.62 g | FC=1C=C(C(=O)NCCC(C(=O)OC(C)(C)C)C2(C(N(CC2)CCC2=CC=CC=C2)=O)C(=C)C)C=CC1F | C30H36F2N2O4
reactant | NaOH | 22.1 mmol, 3N, 7.4 mL | [OH-].[Na+]
reactant | H2O2 | 2.5 mL | OO | H2O2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-Butyl α-[2-[(3,4-Difluorobenzoyl)amino]ethyl]-3-(3-hydroxypropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate | 1.6 g | FC=1C=C(C(=O)NCCC(C(=O)OC(C)(C)C)C2(C(N(CC2)CCC2=CC=CC=C2)=O)CCCO)C=CC1F | C30H38F2N2O5
